US04160775
Reactions of methallyl chloride with methyldichlorosilane and ethyldichlorosilane are reported in Chem. Abstract 50, 13726e (1956). The reaction of methyldichlorosilane with allyl chloride using chloroplatinic acid catalyst is reported to give a 40 percent yield of chloropropylmethyldichlorosilane, while the corresponding methallyl chloride reaction yields 70 percent of chloroisobutylmethyldichlorosilane (see Chem. Abstract 54, 22328b (1960). Higher yields of expected products were reported for methallyl chloride over allyl chloride in reactions with trichlorosilane, methyldichlorosilane, and dimethylchlorosilane in J. Am. Chem. Soc., 82, 3601 (1960), and indicated for the same reaction with deuterotrichlorosilane (Cl3SiD) in J. Am. Chem. Soc., 86, 895 (1964) (see also U.S. Pat. No. 3,686,253). The reaction of methallyl chloride with diethylmethylsilane gives 45 percent of chloroisobutyldiethylmethylsilane according to Chem. Abstracts 55, 15331c (1961). The preparation of siloxanes (as opposed to silanes) containing chloroisobutyl groups is disclosed in J. Am. Chem. Soc., 82, 3601 (1960).

reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | trichlorosilane | Cl[SiH](Cl)Cl | Cl3HSi
reactant | methyldichlorosilane | C[SiH](Cl)Cl | CH4Cl2Si
reactant | dimethylchlorosilane | C[SiH](Cl)C | C2H7ClSi
reactant | deuterotrichlorosilane | [2H][Si](Cl)(Cl)Cl | Cl3HSi
reactant | diethylmethylsilane | C(C)[SiH](C)CC | C5H14Si
product | chloroisobutyldiethylmethylsilane | 45 percent | ClC[Si](CC)(CC)CC(C)C | C9H21ClSi
